US09326987B2
6-Bromo-3-fluoro-4-nitro-1-(phenylsulfonyl)-1H-indazole
To a stirring suspension of sodium hydride (60% in mineral oil) (0.677 g) in THF (25 ml) at 0° C. was added a solution of 6-bromo-3-fluoro-4-nitro-1H-indazole (4 g) in THF (25 ml) dropwise. The reaction mixture was allowed to stir for 30 min then allowed to warm to RT before benzenesulfonyl chloride (2.17 ml) was added. After approximately two hours the reaction mixture was partitioned between ethyl acetate and water. The layers were separated and the aq was then extracted again with ethyl acetate. The combined organics were then washed with brine, dried over magnesium sulphate, filtered and concentrated. The solid was triturated with methanol (50 ml) and filtered to yield the title compound, 5.96 g as a yellow solid.

reactant | sodium hydride | 0.677 g | [H-].[Na+]
reactant | 6-bromo-3-fluoro-4-nitro-1H-indazole | 4 g | BrC1=CC(=C2C(=NNC2=C1)F)[N+](=O)[O-] | C7H3BrFN3O2
reactant | benzenesulfonyl chloride | 2.17 ml | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | 6-Bromo-3-fluoro-4-nitro-1-(phenylsulfonyl)-1H-indazole | BrC1=CC(=C2C(=NN(C2=C1)S(=O)(=O)C1=CC=CC=C1)F)[N+](=O)[O-] | C13H7BrFN3O4S
